US08664408B2
Step A: Tetrahydrocyclopenta[c]pyrrole-1,3(2H,3aH)-dione
Load 1 kg of diethyl 1,2-cyclopentanedicarboxylate and 1.02 kg of 27% ammonia into an autoclave. The reaction mixture is heated in the autoclave at a temperature of 130° C. for a minimum of 4 hours. After cooling to 60° C. and depressurisation, evaporation of the solvent is carried out. The residue is then subjected to pyrolysis at 280° C. for 1 hour. The imide is purified by distillation in vacuo (4-12 mbars) at a temperature of 200° C. After isolation, the title product is obtained in a yield of 96%.

reactant | diethyl 1,2-cyclopentanedicarboxylate | 1 kg | C1(C(CCC1)C(=O)OCC)C(=O)OCC | C11H18O4
reactant | ammonia | 1.02 kg | N | H3N
product | Tetrahydrocyclopenta[c]pyrrole-1,3(2H,3aH)-dione | yield of 96% | C1(NC(C2C1CCC2)=O)=O | C7H9NO2
